US05145865
(2) Methyl 1-(4-tolyl)-5-oxo-3-pyrrolidinecarboxylate
1-(4-Tolyl)-5-oxo-3-pyrrolidinecarboxylic acid (45.50 g) is suspended in methylene chloride (460 ml) and thereto are added methanol (50.5 ml) and conc. sulfuric acid (0.77 ml) and the mixture is refluxed for 19 hours. After cooling, the reaction mixture is concentrated under reduced pressure and the resulting residue is neutralized by adding water and aqueous sodium hydrogen carbonate solution thereto. The precipitated crystal is collected by filtration and washed with water to give the desired product (46.07 g), m.p. 71°-74° C.

reactant | 1-(4-Tolyl)-5-oxo-3-pyrrolidinecarboxylic acid | 45.50 g | C1(=CC=C(C=C1)N1CC(CC1=O)C(=O)O)C | C12H13NO3
reactant | methanol | 50.5 ml | CO | CH4O
reactant | sulfuric acid | 0.77 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 460 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(4-tolyl)-5-oxo-3-pyrrolidinecarboxylate | 46.07 g | C1(=CC=C(C=C1)N1CC(CC1=O)C(=O)OC)C | C13H15NO3
